US07745475B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1,2,4-oxadiazol-3-yl)phenoxy]benzamide
Trimethylsilyl iodide (0.062 mL, 0.434 mmol) was added to a solution of 3-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1,2,4-oxadiazol-3-yl)phenoxy]benzamide (78 mg, 0.174 mmol) in acetonitrile (2 mL) and the reaction mixture allowed to stir at RT for 18 hours. The reaction was diluted with ethyl acetate (15 mL) and quenched by the addition of saturated aqueous sodium bicarbonate (20 mL). The organic phase was washed with saturated aqueous thiosulphate solution (20 mL) and dried (MgSO4). The volatiles were removed under reduced pressure and the resulting oil purified by chromatography on silica, eluting with 0-100% ethyl acetate in iso-hexane, to give the title compound as a colourless solid (64 mg).

reactant | Trimethylsilyl iodide | 0.434 mmol, 0.062 mL | C[Si](C)(C)I | C3H9ISi
reactant | 3-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1,2,4-oxadiazol-3-yl)phenoxy]benzamide | 0.174 mmol, 78 mg | COC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C1=NOC=N1)C | C23H23N5O5
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1,2,4-oxadiazol-3-yl)phenoxy]benzamide | 64 mg | OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C1=NOC=N1)C | C22H21N5O5
